US07816526B2
5-Methyl-4-oxohexanoic acid (3.60 g, 25.0 mmol) and anhydrous hydrazine (0.80 g, 26.0 mmol) were heated for 3 hours in ethanol (36.0 ml) under stirring. After the reaction solution was concentrated under reduced pressure, hexane was added to the residues to precipitate crystals, and the crystals were collected by filtration to give 4,5-dihydro-6-isopropyl-3 (2H)-pyridazinone as crystals. The yield was 3.10 g.

reactant | 5-Methyl-4-oxohexanoic acid | 25.0 mmol, 3.60 g | CC(C(CCC(=O)O)=O)C | C7H12O3
reactant | hydrazine | 26.0 mmol, 0.80 g | NN | H4N2
solvent | ethanol | 36.0 ml | C(C)O | C2H6O
product | 4,5-dihydro-6-isopropyl-3 (2H)-pyridazinone | C(C)(C)C=1CCC(NN1)=O | C7H12N2O
